US03933824
To a stirred solution of 66.2 g of 2-methyl-5-fluoro-3-indolylpropionic acid and 30.3 g of triethylamine in 400 ml of tetrahydrofuran was added dropwise 32.6 g of ethyl chloroformate at a temperature below 0°C. The stirring was continued for additional 30 minutes below 0°C and thereto was added dropwise a solution of 48.7 g of 4-phenylpiperazine in 100 ml of tetrahydrofuran. After addition was completed, the reaction mixture was stirred for 4 hours at room temperature and then filtered. The filtrate was concentrated under reduced pressure to a residual solid, which was recrystallized from ethanol to give 1-[β-(2-methyl-5-fluoro-3-indolyl)propionyl]-4-phenylpiperazine, melting at 170.0°-171.5°C.

reactant | 2-methyl-5-fluoro-3-indolylpropionic acid | 66.2 g | CC(C(=O)O)CC=1NC2=CC=C(C=C2C1)F | C12H12FNO2
reactant | triethylamine | 30.3 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 32.6 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-phenylpiperazine | 48.7 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[β-(2-methyl-5-fluoro-3-indolyl)propionyl]-4-phenylpiperazine | CC=1NC2=CC=C(C=C2C1CCC(=O)N1CCN(CC1)C1=CC=CC=C1)F | C22H24FN3O
